US05864039
4-Amino-5-chloro-2-methoxy-N-((1-(5-((4-pyridylmethyl)amino)-pentyl)piperidin-4-yl)methyl)benzamide (0.8 g) as starting compound, acetaldehyde (0.12 ml) and sodium cyanoborohydride (0.14 g) were reacted and treated in the same manner as in Example 136 to give 0.35 g of 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-(4-pyridylmethyl)amino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-((1-(5-((4-pyridylmethyl)amino)-pentyl)piperidin-4-yl)methyl)benzamide | 0.8 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC=NC=C2)C=C1Cl)OC | C25H36ClN5O2
reactant | acetaldehyde | 0.12 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.14 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-(4-pyridylmethyl)amino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 0.35 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(CC2=CC=NC=C2)CC)C=C1Cl)OC | C27H40ClN5O2
